US05994355
Synthesis of 2-{4-[4-(1-hydroxyethyl)benzyl]-3,5-dichlorophenyl}-4,5-dihydro-1,2,4-triazin-3(2H)-one
In 1.5 ml of ethanol was suspended 0.15 g of 2-[4-(4-acetylbenzyl)-3,5-dichlorophenyl]-4,5-dihydro-1,2,4-triazin-3(2H)-one. To the suspension was added 0.1 g of sodium borohydride. The mixture was stirred for one hour at room temperature. The reaction mixture was poured into 10 ml ice-water, followed by extraction with 10 ml of ethylacetate. The extract was dried over anhydrous magnesium sulfate, and concentrated. This residue was purified by column chromatography (Merck Silica Gel 60; hexane-acetone=1:1) to provide 0.13 g of the title compound as colorless crystals, m.p. 119-120° C.

reactant | 2-[4-(4-acetylbenzyl)-3,5-dichlorophenyl]-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.15 g | C(C)(=O)C1=CC=C(CC2=C(C=C(C=C2Cl)N2N=CCNC2=O)Cl)C=C1 | C18H15Cl2N3O2
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 2-{4-[4-(1-hydroxyethyl)benzyl]-3,5-dichlorophenyl}-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.13 g | OC(C)C1=CC=C(CC2=C(C=C(C=C2Cl)N2N=CCNC2=O)Cl)C=C1 | C18H17Cl2N3O2
